US04632925
5-bromopyrimidine and 3-butyn-1-ol was reacted as above, to give 5-pyrimidinebutanol as a colorless oil, bp 175°-180° C. (0.3 mm). Analysis Calculated for C8H12N2O: C, 63.13; H, 7.95; N, 18.41. Found: C, 62.83; H, 7.98; N, 18.63.

reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 3-butyn-1-ol | C(CC#C)O | C4H6O
product | 5-pyrimidinebutanol | N1=CN=CC(=C1)CCCCO | C8H12N2O
